US04673676
A mixture of 3,4-dihydro-4-methyl-7-nitroisoquinoline (14.63 g) and palladium black (4 g) in decahydronaphthalene (170 ml) was refluxed for 6 hours with stirring. The reaction mixture was allowed to stand overnight at ambient temperature, and then filtered and the residue on a filter was washed with chloroform. The filtrate was extracted with 2N hydrochloric acid (70 ml×3). Aqueous sodium hydroxide was added slowly to the combined aqueous layer, under dryice-acetone cooling. The light brown solid was collected, washed with water and dried. The crude product was chromatographed on silica gel column using chloroform as an eluent to give 4-methyl-7-nitroisoquinoline (6.06 g).

reactant | 3,4-dihydro-4-methyl-7-nitroisoquinoline | 14.63 g | CC1CN=CC2=CC(=CC=C12)[N+](=O)[O-] | C10H10N2O2
solvent | decahydronaphthalene | 170 ml | C1CCCC2CCCCC12 | C10H18
catalyst | palladium black | 4 g | [Pd] | Pd
product | 4-methyl-7-nitroisoquinoline | 6.06 g | CC1=CN=CC2=CC(=CC=C12)[N+](=O)[O-] | C10H8N2O2
